US09193741B2
Synthesis of 1-(4-(5-amino-2-(4-(4-fluorophenyl)butyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone
This compound was prepared from 2-(4-(4-fluorophenyl)butyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine using 4-methoxyphenoxyacetic acid in a yield of 35%, according to the procedure for the synthesis of example 50.

reactant | 2-(4-(4-fluorophenyl)butyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine | FC1=CC=C(C=C1)CCCCC=1SC=2N=C(N=C(C2N1)N1CCNCC1)N | C19H23FN6S
reactant | 4-methoxyphenoxyacetic acid | COC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
product | 1-(4-(5-amino-2-(4-(4-fluorophenyl)butyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone | yield of 35% | NC=1N=C(C2=C(N1)SC(=N2)CCCCC2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=C(C=C2)OC)=O | C28H31FN6O3S
